US05134111
(a) Preparation of 8-(1-hydroxyethyl)-1-naphthol
1040 g of 8'-hydroxy-1'-acetonaphthone was dissolved in 8.5 liters of ethanol, to which 131 g of sodium borohydride was added while ice-cooling in order not to allow the temperature of the reaction solution to exceed 30° C. After agitation for 30 minutes at room temperature, excess sodium borohydride was decomposed with 1 liter of acetone. The reaction solution was concentrated under reduced pressure, after which 4 liters of 1N hydrochloric acid was added, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution to remove the excess acid. After drying with anhydrous magnesium sulfate, the solvent was distilled off and a small amount of hexane was added to the resultant residue for crystallization. The crystals were collected by filtration to obtain 1000 g of the captioned compound as light brown crystals.

reactant | 8'-hydroxy-1'-acetonaphthone | 1040 g | OC=1C=CC=C2C=CC=C(C12)C(C)=O | C12H10O2
reactant | sodium borohydride | 131 g | [BH4-].[Na+]
reactant | acetone | 1 liter | CC(=O)C | C3H6O
solvent | ethanol | 8.5 liters | C(C)O | C2H6O
product | 8-(1-hydroxyethyl)-1-naphthol | 1000 g | OC(C)C=1C=CC=C2C=CC=C(C12)O | C12H12O2
